US07375087B2
3-(β-D-Glucopyranosyloxy)-4-[(4-{2-[(S)-2-hydroxy-1-(methyl)-ethylcarbamoyl]ethoxy}phenyl)methyl]-5-isopropyl-1H-pyrazole
The title compound was prepared in a similar manner to that described in Example 78 using 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(2-carboxyethoxy)phenyl]methyl}-5-isopropyl-1H-pyrazole and (S)-2-amino-1-propanol instead of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(2-carboxyethoxy)-2-methylphenyl]methyl}-5-isopropyl-1H-pyrazole and 2-amino-2-methylpropionamide, respectively.

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(2-carboxyethoxy)phenyl]methyl}-5-isopropyl-1H-pyrazole | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)OCCC(=O)O)C(C)C | C30H38N2O13
reactant | (S)-2-amino-1-propanol | N[C@H](CO)C | C3H9NO
reactant | 2-amino-2-methylpropionamide | NC(C(=O)N)(C)C | C4H10N2O
product | 3-(β-D-Glucopyranosyloxy)-4-[(4-{2-[(S)-2-hydroxy-1-(methyl)-ethylcarbamoyl]ethoxy}phenyl)methyl]-5-isopropyl-1H-pyrazole | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=NNC(=C1CC1=CC=C(C=C1)OCCC(N[C@H](CO)C)=O)C(C)C | C25H37N3O9
